US08754103B2
N′-(5-bromopyridin-2-yl)-2,2-difluoro-3-methoxypropanehydrazide (0.25 g, 0.81 mmol) and p-toluenesulfonic acid monohydrate (0.12 g, 0.65 mmol) in 1,4-dioxane (3.5 mL) were put onto microwave at 160° C. for 80 min. The reaction mixture was diluted with EtOAc and washed sequentially with NaHCO3 aqueous solution and brine. The organic layer was dried over Na2SO4. Evaporation of the solvent and purification by HPLC gave 6-bromo-3-(1,1-difluoro-2-methoxyethyl)-[1,2,4]triazolo[4,3-a]pyridine.

reactant | N′-(5-bromopyridin-2-yl)-2,2-difluoro-3-methoxypropanehydrazide | 0.81 mmol, 0.25 g | BrC=1C=CC(=NC1)NNC(C(COC)(F)F)=O | C9H10BrF2N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.65 mmol, 0.12 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1,4-dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-bromo-3-(1,1-difluoro-2-methoxyethyl)-[1,2,4]triazolo[4,3-a]pyridine | BrC=1C=CC=2N(C1)C(=NN2)C(COC)(F)F | C9H8BrF2N3O
